data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4380,5001,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][NH-:23]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[NH:23][O:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,10.044858067649583,-35.794339162780105
525,572,[CH3:15][C:16]#[N+:17][CH-:18][C:19]([CH3:20])=[O:21].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:18]([C:19]([CH3:20])=[O:21])[N:17]=[C:16]2[CH3:15],water,298.15,15.612912008282049,-29.36917841713676
1823,2021,[CH3:16][O:17][C:18](=[O:19])[C:20](=[NH+:21][N-:22][C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[N:22]([C:23]#[N:24])[NH:21][C:20]3([C:18]([O:17][CH3:16])=[O:19])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,19.84734802680829,-29.395728198324164
634,694,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20](=[O:21])[o:22]1>>[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:15]1([C:16](=[O:17])[NH:18][CH3:19])[NH:14][C:13]3([C:11]([NH:10][CH3:9])=[O:12])[O:22][C:20]1=[O:21],water,298.15,16.347951414613426,-20.6414301440916
1269,1388,[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18]#[N:19])([C:20]#[N:21])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:22](=[O:23])[O:24][CH3:25],water,298.15,11.817690325258749,-34.73388316589597
337,366,[CH3:8][C:9](=[NH+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH:1]1=[CH:2][CH:3]2[CH:4]=[CH:5][CH:6]1[O:7]2>>[CH:1]1=[CH:2][CH:3]2[CH:4]3[CH:5]([CH:6]1[O:7]2)[C:11]([C:12]#[N:13])([C:14]#[N:15])[NH:10][C:9]3([CH3:8])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,19.28352516801991,-23.05056532834081
4959,5646,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[O:11]=[c:12]1[o:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o+:21][c-:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:22]1([c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[C:12](=[O:11])[O:13][C:14]2([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:21]1,water,298.15,13.791319098047683,-11.592071452318946
235,258,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][C:9]([CH3:10])=[N+:11]([CH3:12])[CH-:13][C:14]#[N:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:9]([CH3:8])([CH3:10])[N:11]([CH3:12])[CH:13]1[C:14]#[N:15],water,298.15,14.70699379354227,-52.84195858943608
3636,4155,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C-:12]([C:13]#[N:14])[NH+:15]=[C:16]([C:17]#[N:18])[C:19]#[N:20]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:12]2([CH3:11])[C:13]#[N:14],water,298.15,16.078445260214966,-14.793812940799157
2206,2445,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17](=[O:18])[NH:19][CH3:20])[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17](=[O:18])[NH:19][CH3:20])[N:21]([CH3:22])[C:23]3([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,25.73100957788009,-40.92207942545601
200,217,[CH3:1][O:2][C:3]#[C:4][F:5].[CH3:6][N+:7]([N-:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)=[C:15]([C:16]#[N:17])[C:18]#[N:19]>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[C:15]([C:16]#[N:17])([C:18]#[N:19])[N:7]([CH3:6])[N:8]1[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1,water,298.15,23.208170414911645,-47.09683614669501
3874,4433,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,19.15588844273784,-36.16635862580353
